US08426411B2
To 5-(3-ethyl-4-(6-((2-(trimethyl silyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyloxy)pyrazine-2-carbonitrile (0.097 g, 0.19 mmol, Preparation #11.1) in DCM (2.5 mL) was added TFA (0.7 mL, 10 mmol). The reaction mixture was stirred at ambient temperature for about 1.5 h. The solvents were removed under reduced pressure and the residue was dissolved in 1,4-dioxane (1.3 mL). Ammonium hydroxide (28-30% aqueous ammonia, 2.5 mL, 24 mmol) was added and the reaction mixture was heated at about 60° C. for about 30 min then cooled to ambient temperature. Water (4 mL) was added and the precipitate was collected by filtration to give 5-(-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyloxy)pyrazine-2-carbonitrile (0.0628 g, 87%): LC/MS (Table 1, Method b) Rt=1.99 min; MS m/z: 375 (M+H)+.

reactant | 5-(3-ethyl-4-(6-((2-(trimethyl silyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyloxy)pyrazine-2-carbonitrile | 0.19 mmol, 0.097 g | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)OC=1N=CC(=NC1)C#N | C25H32N8O2Si
reactant | TFA | 10 mmol, 0.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Ammonium hydroxide | 24 mmol, 2.5 mL | [OH-].[NH4+]
reactant | Water | 4 mL | O | H2O
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 5-(-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyloxy)pyrazine-2-carbonitrile | 0.0628 g, 87% | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)NC=C1)OC=1N=CC(=NC1)C#N | C19H18N8O
